US06511997B1
Synthesis of 3-(N′-carbobenzoxy-L-alanylamino)-5-(4-fluorophenyl)-4-(4-pyridyl)pyrazole
Under a stream of argon gas, 421 mg of Z-L-alanine and 306 mg of carbonyldiinidazole (CDI) were dissolved in 10 ml of tetrahydrofuran, followed by stirring at room temperature for 10 minutes. Then, 150 mg of 5-amino-3-(4-fluorophenyl)-4-(4-pyridyl)pyrazole and 287 mg of 1,8-diazabicyclo[5.4.2]undec-7-ene (DBU) were added thereto, followed by stirring at room temperature for 4 hours. After the reaction mixture was concentrated under reduced pressure, the resulting residue was purified by column chromatography using 20 g of silica gel [with an elution solvent comprising chloroform-methanol (50:1)]. Thus, 88 mg (32% yield) of the title compound was obtained as a white powder.

reactant | Z-L-alanine | 421 mg | C[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-amino-3-(4-fluorophenyl)-4-(4-pyridyl)pyrazole | 150 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C14H11FN4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(N′-carbobenzoxy-L-alanylamino)-5-(4-fluorophenyl)-4-(4-pyridyl)pyrazole | 88 mg, 32% yield | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)NC1=NNC(=C1C1=CC=NC=C1)C1=CC=C(C=C1)F | C25H22FN5O3
